US07763639B2
1-[2-FLUORO-3-(1-PROPYLPIPERIDIN-4-YL)PHENYL]ETHANONE
Preparation according to Example 1: 1-(2-fluoro-3-piperidin-4-ylphenyl)ethanone (0.01 g), acetonitrile (2 ml), potassium carbonate (0.01 g) and 2-iodopropane (0.01 g). MS m/z (rel. intensity, 70 eV) 263 (M+, 4), 235 (15), 234 (bp), 163 (3), 133 (4).

reactant | 1-(2-fluoro-3-piperidin-4-ylphenyl)ethanone | 0.01 g | FC1=C(C=CC=C1C1CCNCC1)C(C)=O | C13H16FNO
reactant | potassium carbonate | 0.01 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-iodopropane | 0.01 g | IC(C)C | C3H7I
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 1-[2-FLUORO-3-(1-PROPYLPIPERIDIN-4-YL)PHENYL]ETHANONE | FC1=C(C=CC=C1C1CCN(CC1)CCC)C(C)=O | C16H22FNO
